US04128560
N,N,1,9-Tetramethyl-1,2,3,4-tetrahydrocarbazole-1-ethanamine (1; R1, R4R5 and R6 = CH3, R2 and R3 = H, m = 3, n = 1)
A solution of N-[2-(1,2,3,4-tetrahydro-1,9-dimethylcarbazol-1-yl)ethyl]-N-methylformamide (5.0 g, 0.017 mole), described in Example 225, in anhydrous THF (100 ml) is added dropwise to a stirred suspension of lithium aluminium hydride (0.50 g, 0.015 mole) in anhydrous THF (50 ml) under nitrogen. Stirring is continued for 2 hr at 25° C. The excess hydride is destroyed by dropwise addition of water to the cooled mixture. Saturated sodium chloride solution is added and the compound is extracted with ether. The ether solution is dried (MgSO4) and concentraed to yield the title compound, nmr (CDCl3) δ 1.4 (s, 3H), 2.19 (s, 6H), 3.8 (s, 3H), 7.0-7.6 (m, 4H).

reactant | N-[2-(1,2,3,4-tetrahydro-1,9-dimethylcarbazol-1-yl)ethyl]-N-methylformamide | 0.017 mole, 5.0 g | CC1(CCCC=2C3=CC=CC=C3N(C12)C)CCN(C=O)C | C18H24N2O
reactant | lithium aluminium hydride | 0.015 mole, 0.50 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | THF | 100 ml | C1CCOC1 | C4H8O
solvent | THF | 50 ml | C1CCOC1 | C4H8O
product | N,N,1,9-Tetramethyl-1,2,3,4-tetrahydrocarbazole-1-ethanamine | CN(CCC1(CCCC=2C3=CC=CC=C3N(C12)C)C)C | C18H26N2
